US09302991B2
<Step-2>: 2-acetamido-N-((5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide (Example-409)
The title compound is prepared from 2-amino-N-((5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide (10 mg, 0.03 mmol, Step-1) and acetyl chloride (7 mg, 0.08 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-((5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide | 0.03 mmol, 10 mg | NC1=NC=CC(=N1)C(=O)NCC=1C=NC(=C(C1)Cl)OCC(F)(F)F | C13H11ClF3N5O2
reactant | acetyl chloride | 0.08 mmol, 7 mg | C(C)(=O)Cl | C2H3ClO
product | 2-acetamido-N-((5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide | C(C)(=O)NC1=NC=CC(=N1)C(=O)NCC=1C=NC(=C(C1)Cl)OCC(F)(F)F | C15H13ClF3N5O3
